US08003785B2
To a mixture of 1.1441 g (4.5 mmole) of 4-amino-benzoic acid benzotriazol-1-yl ester and 8 mL of dry dimethylformamide was added 0.6575 g (6.5 mmole) of 4-amino-pyran followed by 0.4554 g (0.45 mmole) of triethylamine. The mixture stirred at room temperature for 90 minutes. Volatiles were removed under reduced pressure and the residue taken up in ethyl acetate, and the organic layer washed once with 100 mL of 0.5 M sodium carbonate, twice with 75 mL water, and then 75 mL brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 0.5378 g 4-amino-N-(tetrahydro-pyran-4-yl)-benzamide, which was used without further purification.

reactant | 4-amino-benzoic acid benzotriazol-1-yl ester | 4.5 mmole, 1.1441 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC=C(C=C2)N)=O | C13H10N4O2
reactant | 4-amino-pyran | 6.5 mmole, 0.6575 g | NC1=CCOC=C1 | C5H7NO
reactant | triethylamine | 0.45 mmole, 0.4554 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 4-amino-N-(tetrahydro-pyran-4-yl)-benzamide | 0.5378 g | NC1=CC=C(C(=O)NC2CCOCC2)C=C1 | C12H16N2O2
